### PR TITLE
More lemmas on ereal

### PR DESCRIPTION
**Pull request by proux01**
Generalization of some lemmas on ereal and a few more lemmas.
This is needed for #375

### CODE REVIEW

File: theories/ereal.v [hunk 1]
```diff
@@ -725,6 +729,19 @@ Lemma adde_Neq_ninfty x y : x != +oo -> y != +oo ->
   (x + y != -oo) = (x != -oo) && (y != -oo).
 Proof. by move: x y => [x| |] [y| |]. Qed.
 
+Lemma adde_ss_eq0 x y : (0 <= x) && (0 <= y) || (x <= 0) && (y <= 0) ->
```
Comment (affeldt-aist) [inline theories/ereal.v:732]: What about having two lemmas instead?
```
Lemma padde_eq0 (R : numDomainType) (x y : \bar R) :
  0 <= x -> 0 <= y -> (x + y == 0) = (x == 0) && (y == 0).
Proof.
move: x y => [x| |] [y| |]//; rewrite !lee_fin; first exact: paddr_eq0.
by move=> x0 _ /=; rewrite andbF.
Qed.

Lemma nadde_eq0 (R : numDomainType) (x y : \bar R) :
  x <= 0 -> y <= 0 -> (x + y == 0) = (x == 0) && (y == 0).
Proof.
move: x y => [x| |] [y| |]//; rewrite !lee_fin; first exact: naddr_eq0.
by move=> x0 _ /=; rewrite andbF.
Qed.
```

Comment (proux01) [reply theories/ereal.v:732]: I copied it from `addr_ss_eq0` https://github.com/math-comp/math-comp/blob/master/mathcomp/algebra/ssrnum.v#L2006
and I must admit I found it quite convenient this way.

Comment (affeldt-aist) [reply theories/ereal.v:732]: Maybe we want them all.

File: theories/ereal.v [hunk 2]
```diff
@@ -807,6 +824,48 @@ Proof. by rewrite /mule /= lte_0_pinfty. Qed.
...
+Qed.
+
+Lemma mulninftyr_real r : r \is Num.real ->
+  -oo * r%:E = (Num.sg r)%:E * -oo.
+Proof. by move=> rreal; rewrite muleC mulrninfty_real. Qed.
+
+Definition mulrinfty_real :=
+  (mulrpinfty_real, mulpinftyr_real, mulrninfty_real, mulninftyr_real).
+
+Lemma mulN1e x : - 1%E * x = - x.
```
Comment (affeldt-aist) [inline theories/ereal.v:862]: You dropped the `Proof.` command.

File: theories/ereal.v [hunk 3]
```diff
@@ -725,6 +729,24 @@ Lemma adde_Neq_ninfty x y : x != +oo -> y != +oo ->
   (x + y != -oo) = (x != -oo) && (y != -oo).
 Proof. by move: x y => [x| |] [y| |]. Qed.
 
+Lemma nadde_eq0 x y : (x <= 0) -> (y <= 0) -> x + y == 0 = (x == 0) && (y == 0).
```
Comment (affeldt-aist) [inline theories/ereal.v:732]:
```suggestion
Lemma nadde_eq0 x y : x <= 0 -> y <= 0 -> x + y == 0 = (x == 0) && (y == 0).
```

File: theories/ereal.v [hunk 4]
```diff
@@ -725,6 +729,24 @@ Lemma adde_Neq_ninfty x y : x != +oo -> y != +oo ->
...
+Proof.
+move: x y => [x||] [y||] //.
+- by rewrite !lee_fin -EFinD !eqe; exact: naddr_eq0.
+- by rewrite /adde/= (_ : -oo == 0 = false)// andbF.
+Qed.
+
+Lemma padde_eq0 x y : (0 <= x) -> (0 <= y) -> x + y == 0 = (x == 0) && (y == 0).
```
Comment (affeldt-aist) [inline theories/ereal.v:739]:
```suggestion
Lemma padde_eq0 x y : 0 <= x -> 0 <= y -> x + y == 0 = (x == 0) && (y == 0).
```

File: theories/ereal.v [hunk 5]
```diff
@@ -990,6 +1089,24 @@ Lemma dadde_Neq_ninfty x y : x != +oo -> y != +oo ->
   (x + y != -oo) = (x != -oo) && (y != -oo).
 Proof. by move: x y => [x| |] [y| |]. Qed.
 
+Lemma ndadde_eq0 x y : (x <= 0) -> (y <= 0) -> x + y == 0 = (x == 0) && (y == 0).
```
Comment (affeldt-aist) [inline theories/ereal.v:1092]:
```suggestion
Lemma ndadde_eq0 x y : x <= 0 -> y <= 0 -> x + y == 0 = (x == 0) && (y == 0).
```

File: theories/ereal.v [hunk 6]
```diff
@@ -990,6 +1089,24 @@ Lemma dadde_Neq_ninfty x y : x != +oo -> y != +oo ->
...
+Proof.
+move: x y => [x||] [y||] //.
+- by rewrite !lee_fin -dEFinD !eqe; exact: naddr_eq0.
+- by rewrite /adde/= (_ : -oo == 0 = false)// andbF.
+Qed.
+
+Lemma pdadde_eq0 x y : (0 <= x) -> (0 <= y) -> x + y == 0 = (x == 0) && (y == 0).
```
Comment (affeldt-aist) [inline theories/ereal.v:1099]:
```suggestion
Lemma pdadde_eq0 x y : 0 <= x -> 0 <= y -> x + y == 0 = (x == 0) && (y == 0).
```

**Review by affeldt-aist — APPROVED** [review]

**Comment by affeldt-aist** [comment]
You maybe want to squash the commits.

**Comment by proux01** [comment]
I'd rather not but if you prefer, I can.
